US07157464B2
Synthesis of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(5-methoxy-2-methyl-phenyl)-piperazin-1-yl]-ethanone
Title compound was prepared following the HATU mediated coupling protocol P, wherein 1-(3-Methoxy-5-methylphenyl)piperazine and (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid were used as the coupling components, to give the product as a solid: 1H NMR (DMSO-d6, 400 MHz) 7.06 (d, 1H), 6.56 (m, 2H), 5.38 (s, 2H), 3.69 (s, 3H), 3.62 (m, 4H), 2.92 (m, 2H), 2.84 (m, 2H), 2.20 (s, 3H) ppm; MS (ES) M+H expected=431.1, found=431.1.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-(3-Methoxy-5-methylphenyl)piperazine | COC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2O
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(5-methoxy-2-methyl-phenyl)-piperazin-1-yl]-ethanone | ClC=1C(=NN(C1C)CC(=O)N1CCN(CC1)C1=C(C=CC(=C1)OC)C)C(F)(F)F | C19H22ClF3N4O2
